Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Admission for desensitization
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old young woman with a history of ovarian 
endometrioid adenocarcinoma (at least stage IIB) on adjuvant 
carboplatin/paclitaxel who presents for her fourth cycle of 
carboplatin + paclitaxel desensitization.

She tolerated her last session well, although noted increased 
myalgias in her legs bilaterally. Also with bilateral foot 
neuropathy, now resolved. Nauseas was present but tolerable with 
antiemetics. 

She feels well at present. No FC. No SOB, cough or CP. No N/V. 
Mild diarrhea a few days ago, improving. No abdmominal pain. No 
new joint pain, swelling or rash.

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was 
negative unless otherwise noted in the HPI.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Ms. ___ was diagnosed at age ___. An u/s on ___ showed an 
anteverted uterus at 8.7 x 3.9 x 5.1cm in size with 2 adjacent 
cysts measuring 11.8 x 4.5 x 4.9cm with the largest cystic 
portion measuring 7.1 x 3.8cm in size. A pelvic MRI in ___ 
showed an enlarged complex cystic mass likely arising form the 
right ovary with 2 enlarged complex  cysts measuring 8.5cm and 
6.3cm each. There was no other evidence of metastatic disease.

She underwent surgery on ___. Intraoperative findings 
include complex bilobed right ovarin mass filled with mucinous 
cystic fluid which was ruptured intraoperatively. An attempt was 
made  to perform a cystectomy for the ___ cyst, but there was 
also  rupture of the cyst revealing mucinous material. Frozen 
showed  borderline tumor, so a complete right sided 
salpingo-oophorectomy was performed. A small 0.5cm nodule was 
removed from the left ovary. She had cul de sac biopsies. The 
appendix was wnl, and an  omental biopsy was obtained. The 
abdomen was thoroughly irrigated. 

Pathology from the right ovary demonstrated a  
well-differentiated adenocarcinoma associated with a 7.5cm 
mucinous borderline  tumor. There was no LVSI, or malignancy 
noted from the right fallopian tube. The cul-de-sac nodule was 
consistent with metastatic mucinous carcinoma. Omental biopsy 
and pelvic  washings were both negative for malignancy.
Prior to initiating chemotherapy, she underwent fertility 
preservation with oocyte preservation and egg retrieval. She 
began adjuvant treatment with taxol, ___ on ___. 

- ___: C1D1 Taxol, 175mc/m2, ___, AUC 6. She had myalgias 
D3-7 Rash developed around day 10;  treated with prednisone x 5 
days with resolution.
- ___: C2D1 Hypersensitivity Reaction to taxol ~ 18cc.  Held 
remainder of treatment;  plan to refer to allergy
- ___ ___ alone, AUC 6.  Allergy referral 
- ___: C3 ___ AUC6 & Taxol 175 mg/m2 via desens on 11R
- ___ C4 Carboplatin (AUC 6), Paclitaxel 
- ___  C5 Carboplatin (AUC 6), Paclitaxel 
 
PAST MEDICAL HISTORY: 
-Ovarian cancer, as above
-Childhood asthma 
-Psoriasis

 
Social History:
___
Family History:
Father - prostate cancer (age ___
PGF- prostate cancer
MGF - lymphoma

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T 98.2 HR 103 BP 131/83 RR 20 SAT  98% O2 on RA
GENERAL: Pleasant, lying in bed comfortably
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or 
gallops; 2+ radial pulses
RESPIRATORY: Appears in no respiratory distress, clear to 
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft, 
nontender without rebound or guarding; no hepatomegaly, no 
splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower 
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN II-XII intact, motor and sensory 
function grossly intact
SKIN: No significant rashes
LYMPHATIC: No cervical, supraclavicular, submandibular 
lymphadenopathy. No significant ecchymoses

DISCHARGE PHYSICAL EXAM:  
VS: T 97.8 HR 119 BP 133/83 RR 18 SAT  98% O2 on RA
GENERAL: Pleasant, lying in bed comfortably
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or 
gallops; 2+ radial pulses
RESPIRATORY: Appears in no respiratory distress, clear to 
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft, 
nontender without rebound or guarding; no hepatomegaly, no 
splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower 
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN II-XII intact, motor and sensory 
function grossly intact
SKIN: No significant rashes
LYMPHATIC: No cervical, supraclavicular, submandibular 
lymphadenopathy. No significant ecchymoses
 
Pertinent Results:
ADMISSION LABS:
===============

___ 11:00AM BLOOD WBC-7.4# RBC-3.49* Hgb-10.9* Hct-30.8* 
MCV-88 MCH-31.2 MCHC-35.4 RDW-15.7* RDWSD-47.4* Plt ___
___ 11:00AM BLOOD UreaN-8 Creat-0.6 Na-144 K-4.1 Cl-106 
HCO3-23 AnGap-15
___ 11:00AM BLOOD TotBili-0.3
___ 11:00AM BLOOD Calcium-9.2
___ 11:00AM BLOOD ___
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with at least Stage IIB 
well-differentiated ovary endometrioid adenocarcinoma with 
mucinous features with mucinous borderline tumor who is 
undergoing adjuvant treatment with 6 cycles ___ & taxol c/b 
taxol hypersensitivity reaction requiring desensitization.

She presented for her fourth cycle of carboplatin/paclitaxel 
with 3 bag paclitaxel desensitization. She was premedicated with 
10mg cetirizine the night before along with 20mg cetirizine, 
50mg IV diphenhydramine, 12mg IV dexamethasone prior to 
desensitization protocol. She also received additional 25mg 
prior to bag 3. She tolerated the infusion well without 
complaint and subsequently received her carboplatin infustion. 
She will use dexamethasone for 3 days following chemotherapy 
along with Zofran and Compazine.

She will follow up with Dr. ___ as scheduled.

>30 minutes spent planning and executing this discharge plan.

TRANSITIONAL ISSUES:
- Labs on ___ then clinic follow up on ___
- Dexamethasone 4mg daily x3 days following chemo with Zofran 
8mg bid x2 days and Compazine as needed.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO ASDIR 
2. Dexamethasone 4 mg PO Q12H 
3. LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia  
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. Prochlorperazine 10 mg PO Q6H:PRN nausea 
6. Famotidine 20 mg PO DAILY:PRN GERD 
7. Nexplanon (etonogestrel) 68 mg Other ASDIR 
8. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 


 
Discharge Medications:
1.  Cetirizine 10 mg PO ASDIR  
2.  Dexamethasone 4 mg PO Q12H  
3.  Famotidine 20 mg PO DAILY:PRN GERD  
4.  LORazepam 0.5 mg PO Q6H:PRN nausea, anxiety, insomnia   
5.  Nexplanon (etonogestrel) 68 mg Other ASDIR  
6.  Ondansetron 8 mg PO Q8H:PRN nausea  
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
8.  Prochlorperazine 10 mg PO Q6H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Taxol hypersensitivity
# Ovarian cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure taking care of you at ___ 
___. You were admitted for your fourth 
cycle of carboplatin/paclitaxel chemotherapy with 
desensitization. You tolerated the treatment well. Please be 
sure to get your labs checked on ___, and follow up with 
Dr. ___ on ___, as scheduled below.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___